US06436915B1
Synthesis of 3,5-Diamino-4-[(3-methoxyphenyl)hydrazono]pyrazole
This compound was prepared using 109 mg (0.5 mmol) of 2-[(3-fluoro-4-methoxyphenyl)hydrazono]malononitrile, which was derived from 3-fluoro-p-anisidine (141 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube immediately after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 85 mg (68%) of the title compound as a mustard coloured solid.

reactant | 2-[(3-fluoro-4-methoxyphenyl)hydrazono]malononitrile | 0.5 mmol, 109 mg | FC=1C=C(C=CC1OC)NN=C(C#N)C#N | C10H7FN4O
reactant | 3-fluoro-p-anisidine | 1.0 mmol, 141 mg | FC=1C=C(OC)C=CC1N | C7H8FNO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(3-methoxyphenyl)hydrazono]pyrazole | 85 mg, 68% | NC1=NN=C(C1=NNC1=CC(=CC=C1)OC)N | C10H12N6O
